US07071201B2
Example 29: Synthesis of 1-[1-(4-nitrophenethyl)piperidin-4-yl]indoline
1-(Piperazin-4-yl)indoline (2.00 g) was dissolved in dimethylformamide (20 ml) and 4-(2-bromoethyl)nitrobenzene (10.0 g) and triethylamine (2.9 ml) were added thereto followed by stirring the resultant mixture at 100° C. overnight. After adding water to the reaction solution, extracted with ethyl acetate, the organic layer was washed with brine and dried over magnesium sulfate. After distilling off the solvent, the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (1.05 g) as a slightly yellow solid.

reactant | 1-(Piperazin-4-yl)indoline | 2.00 g | N1CCN(CC1)N1CCC2=CC=CC=C12 | C12H17N3
reactant | 4-(2-bromoethyl)nitrobenzene | 10.0 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4-nitrophenethyl)piperidin-4-yl]indoline | 1.05 g | [N+](=O)([O-])C1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C21H25N3O2
